US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]thieno[3,2-b]pyridine-2-carboxamide
35 mg (0.20 mmol) of thieno[3,2-b]pyridine-2-carboxylic acid, 58.3 mg (0.29 mmol) of R-3-aminoquinuclidine dihydrochloride, 111.4 mg (0.29 mmol) of HATU, 138.8 mg (1.07 mmol) of N,N-diisopropylethylamine and 1.5 ml of DMF are reacted according to the general procedure (variant A). The reaction mixture is purified by preparative

reactant | thieno[3,2-b]pyridine-2-carboxylic acid | 0.20 mmol, 35 mg | S1C(=CC2=NC=CC=C21)C(=O)O | C8H5NO2S
reactant | HATU | 0.29 mmol, 111.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.07 mmol, 138.8 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]thieno[3,2-b]pyridine-2-carboxamide | N12C[C@@H](C(CC1)CC2)NC(=O)C2=CC1=NC=CC=C1S2 | C15H17N3OS
